US04000275
6-(n-Octyl)benzimidazo[2,1-b]quinazolin-12(6H)one is prepared with benzimidazo[2,1-b]quinazolin-12(6H)one and n-octyl bromide.

reactant | benzimidazo[2,1-b]quinazolin-12(6H)one | C1=C2C(N3C(=NC2=CC=C1)NC1=C3C=CC=C1)=O | C14H9N3O
reactant | n-octyl bromide | C(CCCCCCC)Br | C8H17Br
product | 6-(n-Octyl)benzimidazo[2,1-b]quinazolin-12(6H)one | C(CCCCCCC)N1C2=C(C=CC=C2)N2C1=NC1=CC=CC=C1C2=O | C22H25N3O
